US07332529B2
Synthesis of 3,5-dinonoxybenzyl Chloride
A 1 L RBF was prepared containing 5 mL dry dichloromethane, a stir bar, a septum, an out-vent line and a nitrogen gas line. DMF (3.3 ml, 40.3 mmol) was added and the reaction mixture was cooled in an ice bath. Thionyl chloride (2.7 ml, 40.3 mmol) was added and the reaction mixture was stirred for 10 minutes. The ice bath was then removed and the reaction mixture was allowed to stir for an additional 10 minutes. The RBF was placed in an ice bath and a mixture of pyridine (2.72 ml, 33.6 mmol) and 3,5-dinonoxybenzylalcohol (13.2 g, 33.6 mmol) were added and dissolved in about 50 mL dichloromethane, drop-wise through the septum. After 15 minutes, the RBF was removed from the ice bath and the reaction was stirred for 2 hours after which the reaction mixture was placed in the refrigerator overnight. The solvent was removed by rotary evaporation. To the remaining organic matter, 100 mL of 50% ether/hexanes was added to dissolve the desired compound. A solid orange precipitate formed, the remaining liquid was decanted off and the precipitate was washed with an additional 100 mL of 50% ether/hexanes. The combined organic layers were vacuum filtered through a silica gel into a RBF and the solvent was removed under reduced pressure. The trace solvent was removed by high vacuum overnight. There was a 10.0 g yield or a 72.2% yield of the derivative. The NMR characterization data for this derivative is as follows. 1H NMR (300 MHz, CDCl3): 0.88 (t, J=6.3, 6H, CH2CH3), 1.1-1.55 (m, 28H, CH2(CH2)6), 1.76 (p, J=6.6, 4H, OCH2CH2), 3.93 (t, J=6.6, 4H,), 4.50 (d, J=5.8, 2H, CH2Cl), 6.39 (t, J=2.2, 1H, ArH), 6.51 (d, J=2.2, 2H, ArH).

reactant | DMF | 40.3 mmol, 3.3 ml | CN(C)C=O | C3H7NO
reactant | Thionyl chloride | 40.3 mmol, 2.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 33.6 mmol, 2.72 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,5-dinonoxybenzylalcohol | 33.6 mmol, 13.2 g | C(CCCCCCCC)OC=1C=C(CO)C=C(C1)OCCCCCCCCC | C25H44O3
solvent | dichloromethane | about 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3,5-dinonoxybenzyl Chloride | 72.2% yield | C(CCCCCCCC)OC=1C=C(CCl)C=C(C1)OCCCCCCCCC | C25H43ClO2
